US06218431B1
Diethyl 1,4-Dihydro-2,6-diisopropyl-4-(4-fluorophenyl)pyridine-3,5-dicarboxylate
528 g (2 mol) of (E/Z)-4-carboxymethyl-5-(4-fluorophenyl)-2-methyl-pent-4-en-3-one and 350 g (2 mol) of 90% ethyl 3-amino-4-methyl-pent-2-enoate are stirred in 1800 ml ethanediol overnight at a bath temperature of 200° C. The mixture is cooled slowly and poured into a large glass beaker at approx. 80° C. After further cooling to 0° C., the solution is drawn off by suction from the precipitated sediment, then the sediment is washed well with ice cold ethanol and dried in a desiccator. The ethanol solution is concentrated, and the residue together with the ethanediol mother liquor is extracted four times with 1.5 l ether each time. The combined ether phases are washed three times each with 500 ml of 10% hydrochloric acid and once each with 500 ml of saturated sodium hydrogen carbonate solution and water, dried over magnesium sulfate, filtered, and allowed to stand overnight at room temperature. The solution is drawn off by suction from the precipitated sediment, subsequently washed with ice cold ethanol, and dried in a desiccator. The ethanol solution and the ether mother liquor are concentrated together in a vacuum to a volume of approx. 2 l, allowed to stand overnight again, and drawn off by suction from the precipitated sediment.

reactant | (E/Z)-4-carboxymethyl-5-(4-fluorophenyl)-2-methyl-pent-4-en-3-one | 2 mol, 528 g | CC(C)C(=O)/C(=C\C1=CC=C(C=C1)F)/C(=O)OC | C14H15FO3
reactant | ethyl 3-amino-4-methyl-pent-2-enoate | 2 mol, 350 g | NC(=CC(=O)OCC)C(C)C | C8H15NO2
reactant | ethanediol | 1800 ml | C(C)(O)O | C2H6O2
product | Diethyl 1,4-Dihydro-2,6-diisopropyl-4-(4-fluorophenyl)pyridine-3,5-dicarboxylate | C(C)(C)C=1NC(=C(C(C1C(=O)OCC)C1=CC=C(C=C1)F)C(=O)OCC)C(C)C | C23H30FNO4
